US08008298B2
A mixture of 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (50 mg, 0.18 mmol), 1-[2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine (60 mg, 0.2 mmol), potassium carbonate (63 mg, 0.46 mmol), Pd(dppf)Cl2.CH2Cl2 (11 mg, 0.013 mmol), 1.4 mL dioxane and 0.3 mL water was stirred at 150° C. in a microwave for 30 min. The resulting mixture was treated with additional Pd(dppf)Cl2.CH2Cl2 (2 mg, 0.002 mmol), stirred at 160° C. in a microwave for 10 min, and partitioned between ethyl acetate and water. The combined organic layers were dried over Na2SO4 and concentrated to give a dark brown residue. The crude product was purified by preparative thin layer chromatography using 140:9.5:0.5 CH2Cl2:MeOH:conc NH4OH as eluant. The resultant brown solid was washed with CH2Cl2 and ethyl ether to provide 20 mg (29%) of 1-[2-(4-methoxy-3-pyrrolidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow solid. MP 211-213° C., M+H 379.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.18 mmol, 50 mg | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 1-[2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine | 0.2 mmol, 60 mg | COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)N1CCCC1 | C17H26BNO3
reactant | potassium carbonate | 0.46 mmol, 63 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 0.013 mmol, 11 mg | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 0.002 mmol, 2 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.3 mL | O | H2O
solvent | dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
product | 1-[2-(4-methoxy-3-pyrrolidin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 20 mg, 29% | COC1=C(C=C(C=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O)N2CCCC2 | C22H26N4O2
